US04259504
1-(o-Fluorophenyl)-5-(p-nitrophenyl)-1H-1,2,4-triazole
A 25.0 g. portion of o-fluorophenylhydrazine hydrochloride is dissolved in 150 ml. of p-dioxane with warming and 31.0 ml. of 5 N sodium hydroxide is added. After solution is complete, 80 ml. of glacial acetic acid and 210 ml. of water are added followed by 28.1 g. of N-(dimethylaminomethylene)-p-nitrobenzamide in 100 ml. of warm p-dioxane. This reaction mixture is heated at 90°-95° C. for 1.5 hours, then cooled and poured into 1500 ml. of water. The solid is collected by filtration, washed with water, dried and crystallized from 200 ml. of ethanol, giving 13.9 g. of the desired product as a tan solid, mp. 143°-145° C.

reactant | o-fluorophenylhydrazine hydrochloride | Cl.FC1=C(C=CC=C1)NN
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | N-(dimethylaminomethylene)-p-nitrobenzamide | CN(C)C=NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11N3O3
solvent | water | O | H2O
solvent | p-dioxane | O1CCOCC1 | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(o-Fluorophenyl)-5-(p-nitrophenyl)-1H-1,2,4-triazole | FC1=C(C=CC=C1)N1N=CN=C1C1=CC=C(C=C1)[N+](=O)[O-] | C14H9FN4O2
